US06440966B1
Step a: Preparation of 4-Methyl-benzene-N,N-dimethylsulfonamide
To a stirring solution comprised of para-toluenesulfonyl chloride in dichloromethane at 0° C. is introduced excess gaseous dimethylamine. The precipitate is removed by filtration and the filtrate is concentrated in vacuo to obtain the product.

reactant | para-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Methyl-benzene N,N-dimethylsulfonamide | CC1=CC=CC=C1.CN(S(=O)=O)C | InChI=1S/C7H8.C2H7NO2S/c1-7-5-3-2-4-6-7;1-3(2)6(4)5/h2-6H,1H3;6H,1-2H3
